US07906225B2
1.484 g of 9-nonadecyne and 2 g of acecyclone were dissolved in 15 g of diphenyl ether and refluxed for 16 hours. Precipitation in methanol and chromatography on silica gel (Merck silica gel 60, ethyl acetate/cyclohexane) gave 8-nonyl-9-octyl-7,10-diphenylfluoranthene as a brownish solid.

reactant | 9-nonadecyne | 1.484 g | CCCCCCCCC#CCCCCCCCCC | C19H36
reactant | acecyclone | 2 g | C1=CC=C(C=C1)C2=C3C4=CC=CC5=C4C(=CC=C5)C3=C(C2=O)C6=CC=CC=C6 | C27H16O
reactant | diphenyl ether | 15 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 8-nonyl-9-octyl-7,10-diphenylfluoranthene | C(CCCCCCCC)C=1C(=C2C3=CC=CC4=CC=CC(C2=C(C1CCCCCCCC)C1=CC=CC=C1)=C43)C4=CC=CC=C4 | C45H52
